US08491868B2
Preparation of 3-Bromo-4-(2-fluoroethoxy)benzonitrile
To a flame dried 50 mL round bottom flask was added 3-bromo-4-hydroxybenzonitrile (1.0 g, 5.05 mmol) followed by 5 mL of dimethyl sulfoxide. Potassium iodide (4.2 mg, 0.025 mmol) and potassium carbonate (1.05 g, 7.58 mmol) were added. The flask was immersed in an oil bath at 85° C. and 1-bromo-2-fluoroethane (0.769 g, 0.45 mL, 6.06 mmol) was added. The reaction was stirred at this temperature for 1 h after which it was cooled to room temperature and diluted with water (10 mL). The resulting solution was extracted with dichloromethane (2×20 mL). The organic layer was then washed with water (3×20 mL) and brine, and dried over magnesium sulfate. The solution was filtered and concentrated in vacuo to obtain an oil which was purified by silica gel flash chromatography using dichloromethane. Product (1.13 g, 92%) was obtained as a colorless solid. 1H NMR (600 MHz, CDCl3): δ 7.83 (s, 1H), 7.57 (d of d, 1H, J=8.4, 1.8 Hz), 6.94 (d, 1H, J=8.4 Hz), 4.8 (t of d, 2H, J=49, 1.2 Hz), 4.35 (t of d, 2H, J=24, 1.2 Hz). 13C NMR (150 MHz, CDCl3): δ 158.5, 136.9, 132.9, 117.5, 113, 106, 81.5 (d, J=171 Hz), 68.5 (d, J=21 Hz). HRMS: Calc'd for C9H7BrFNO (M+H): 243.9767; Found: 243.9767.

reactant | 3-bromo-4-hydroxybenzonitrile | 5.05 mmol, 1.0 g | BrC=1C=C(C#N)C=CC1O | C7H4BrNO
reactant | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
reactant | potassium carbonate | 7.58 mmol, 1.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-fluoroethane | 6.06 mmol, 0.45 mL, 0.769 g | BrCCF | C2H4BrF
solvent | water | 10 mL | O | H2O
catalyst | Potassium iodide | 0.025 mmol, 4.2 mg | [I-].[K+]
product | 3-Bromo-4-(2-fluoroethoxy)benzonitrile | 1.13 g, 92% | BrC=1C=C(C#N)C=CC1OCCF | C9H7BrFNO
